US09056873B2
A mixture of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (120 mg, 0.240 mmol), 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[2,3-c]pyrazole (212 mg, 0.481 mmol) and tetrakis(triphenylphosphine)palladium(0) (139 mg, 0.120 mmol) in toluene (3 mL) was heated to 120° C. in a Biotage Initiator microwave for 30 minutes. The mixture was concentrated to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-(1,3-dimethyl-1H-thieno[2,3-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate, which was subsequently dissolved in DCM (5 mL) and TFA (5 mL). The resulting solution was stirred at room temperature for 20 minutes, concentrated, and purified by preparatory HPLC, eluting with a gradient of 10-40% ACN (0.035% TFA) and water (0.05% TFA). The collected fractions were combined and dried to give a TFA salt of the title compound as a white solid (89 mg, 89%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-1.73 (m, 5H), 1.83-1.97 (m, 3H), 2.35 (s, 3H), 3.78-3.79 (m, 1H), 3.86 (s, 3H), 4.26-4.27 (m, 1H), 4.43 (d, J=4.88 Hz, 2H), 7.02-7.04 (m, 1H), 7.81-7.82 (m, 2H), 8.51 (s, 1H), 9.16 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H23FN6OS, 415. found, 415.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.240 mmol, 120 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[2,3-c]pyrazole | 0.481 mmol, 212 mg | CN1N=C(C2=C1SC(=C2)[Sn](CCCC)(CCCC)CCCC)C
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.120 mmol, 139 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-(1,3-dimethyl-1H-thieno[2,3-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC3=C(N(N=C3C)C)S1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H39FN6O5S
